US04159279
To a solution of 2-hydroxy-5-(1,1-dimethylethyl)phenylmethanesulfamic acid (2.6 g., 0.01 mole) in water-tetrahydrofuran (5:1; v:v; 90 ml.) is added a freshly prepared solution of iodine monochloride (1.64 g., 0.01 mole) in 3 N hydrochloric acid (12 ml.) portionwise over 5 minutes providing a dark reaction solution which is stirred at 20° C. for 2 hours and then cooled to 0°-5° C. The resulting insoluble solid is collected, washed with 12 N hydrochloric acid, dried with aspiration at 20° C. and washed with water to give crude 2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethanesulfamic acid (3.3 g., 85.9%), m.p. 172°-180° C. with dec. Recrystallization from water-ethanol (10:1; v:v) provides pure 2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethanesulfamic acid as colorless crystals, m.p. 180°-182° C. with dec.

reactant | 2-hydroxy-5-(1,1-dimethylethyl)phenylmethanesulfamic acid | 0.01 mole, 2.6 g | OC1=C(C=C(C=C1)C(C)(C)C)CNS(=O)(=O)O | C11H17NO4S
reactant | iodine monochloride | 0.01 mole, 1.64 g | ICl | ClI
solvent | water tetrahydrofuran | 90 ml | O.O1CCCC1
solvent | hydrochloric acid | 3 N, 12 ml | Cl | ClH
product | 2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethanesulfamic acid | OC1=C(C=C(C=C1I)C(C)(C)C)CNS(=O)(=O)O | C11H16INO4S
